US06103708
2'-Methoxy-[1,1';3',1"]terphenyl-5'-carboxylic acid
At ambient temperature, to a stirred solution of 2'-methoxy-[1,1';3',1"]terphenyl-5'-carboxylic acid methyl ester (1.148 g, 3.606 mmol) in THF (36.06 mL) was added 1N KOH (36.06 mL) and the reaction was stirred for 16 h. The reaction was heated at 100° C. for an additional 24 h. The reaction was cooled to ambient temperature, diluted with ether (100 mL) and extracted with 0.1N NaOH. The aqueous extracts were washed with ether (3×), acidified with 6N HCl and extracted with EtOAc. The organic extracts were dried (MgSO4) and concentrated to give 1.043 g (95%) of the title compound. 1H NMR (DMSO-d6) δ 3.15 (s, 3 H), 7.40-7.52 (m, 6 H), 7.58-7.60 (m, 4 H), 7.88 (s, 2 H), 13.04 (s, 1 H).

reactant | 2'-methoxy-[1,1';3',1"]terphenyl-5'-carboxylic acid methyl ester | 3.606 mmol, 1.148 g | COC(=O)C=1C=C(C(=C(C1)C1=CC=CC=C1)OC)C1=CC=CC=C1 | C21H18O3
reactant | KOH | 1N, 36.06 mL | [OH-].[K+]
solvent | THF | 36.06 mL | C1CCOC1 | C4H8O
solvent | ether | 100 mL | CCOCC | C4H10O
product | 2'-Methoxy-[1,1';3',1"]terphenyl-5'-carboxylic acid | 1.043 g, 95% | COC1=C(C=C(C=C1C1=CC=CC=C1)C(=O)O)C1=CC=CC=C1 | C20H16O3
